US09056874B2
(±)-2-((Dimethylamino)(5-methoxy-7-methyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile
The title compound was synthesized from a mixture of (±)-tert-butyl 4-((5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(dimethylamino)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate and (±)-tert-butyl 4-((6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(dimethylamino)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate as described in Example 36-E. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.60 (s, 1H) 10.88 (s, 1H) 7.90 (s) 7.54-7.60 (m) 7.46 (m) 7.22 (t, J=2.78 Hz, 1H) 6.74 (s, 1H) 6.69 (dd, J=2.97, 1.96 Hz, 1H) 5.38 (s, 1H) 3.79 (s, 3H) 2.41 (d, J=0.63 Hz, 3H) 2.22 (s, 6H). MS (ESI−) m/z 358.2 (M−H).

reactant | (±)-tert-butyl 4-((5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(dimethylamino)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | C(#N)C1=CC2=C(N(C(=N2)C(C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)N(C)C)COCC[Si](C)(C)C)C=C1 | C32H43N5O4Si
reactant | (±)-tert-butyl 4-((6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(dimethylamino)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | C(#N)C=1C=CC2=C(N(C(=N2)C(C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)N(C)C)COCC[Si](C)(C)C)C1 | C32H43N5O4Si
product | (±)-2-((Dimethylamino)(5-methoxy-7-methyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | CN(C)C(C1=NC2=C(N1)C=CC(=C2)C#N)C2=C1C=CNC1=C(C=C2OC)C | C21H21N5O
